US04285956
2-Methylthio-6-fluoro-9-thioxanthone
375 Grams of 2-(p-methylthiophenylthio)-4-fluoro-benzoic acid (Collec.Czech.Chem.Commun. 40, pg. 3523 (1975)) were heated with 2.7 kilograms of polyphosphoric acid while stirring for 3 hours at 140 degrees Centigrade. The mixture was cooled to 110 degrees Centigrade and poured into ice-water. The precipitate was sucked off, suspended in aqueous ammonia and sucked off again. After recrystallization from pyridine 200 grams of 2-methylthio-6-fluoro-9-thioxanthone was obtained as a yellow crystalline substance which melted at 135-138 degrees Centigrade.

reactant | 2-(p-methylthiophenylthio)-4-fluoro-benzoic acid | CSC1=CC=C(C=C1)SC1=C(C(=O)O)C=CC(=C1)F | C14H11FO2S2
solvent | ammonia | N | H3N
product | 2-Methylthio-6-fluoro-9-thioxanthone | CSC1=CC=2C(C3=CC=C(C=C3SC2C=C1)F)=O | C14H9FOS2
